US05994378
A solution of benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-oxoethyl}indole-3-carboxylate (140 mg) in tetrahydrofuran (4 ml) was hydrogenated over 10% Pd(OH)2 (22 mg) at room temperature under atmospheric pressure. After removal of the catalyst by filtration the filtrate was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of dichloromethane and methanol. The fractions containing the objective compound were combined and concentrated under reduced pressure to give 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-oxoethyl}indole-3-carboxylic acid (90 mg).

reactant | benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-oxoethyl}indole-3-carboxylate | 140 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(CN2C=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2)=O | C33H28N2O4S
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | Pd(OH)2 | 22 mg | [OH-].[OH-].[Pd+2]
product | 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-oxoethyl}indole-3-carboxylic acid | 90 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(CN2C=C(C1=CC=CC=C21)C(=O)O)=O | C26H22N2O4S
